US09120749B2
tert-Butyl 4-[3-(cyclopropanecarbonyl)-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-4-ylamino]benzylcarbamate
Following general procedure F, tert-butyl 4-[6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino]benzylcarbamate (58 mg, 0.117 mmol) was reacted with 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (50 mg, 0.176 mmol) to afford the crude product (67 mg) as a yellow solid.

reactant | tert-butyl 4-[6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino]benzylcarbamate | 0.117 mmol, 58 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC1=CC=C(CNC(OC(C)(C)C)=O)C=C1 | C25H26BrN3O3
reactant | 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.176 mmol, 50 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)O | C12H15BCl2O3
product | tert-Butyl 4-[3-(cyclopropanecarbonyl)-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-4-ylamino]benzylcarbamate | 67 mg | C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1NC1=CC=C(CNC(OC(C)(C)C)=O)C=C1)C1=CC(=C(C(=C1)Cl)O)Cl | C31H29Cl2N3O4
